US06437147B1
5-Cyclohexylpentanoic acid (4,5,6,7-tetrahydro-1H-benzimidazol-5-yl)amide, hydrochloride
To a mixture of 5-amino-4,5,6,7-tetrahydro-1H-benzimidazole, dihydrochloride (420 mg, 2.0 mmol) and DMA (10 ml), 5.4 M NaOMe in MeOH (0.74 ml, 4.0 mmol) was added. triethylamine (0.276 ml, 2 mmol) was added followed by dropwise addition of 5-cyclohexylpentanoic acid chloride (609 mg, 3.0 mmol). When addition was complete the mixture was stirred at ambient temperature for 30 min and then heated at 80° C. for 1 hour and finally allowed to cool to ambient temperature within 1 hour. The volatiles were evaporated and the residue was stirred vigorously with a mixture of H2O (100 ml), 1 N hydrochloric acid (10 ml) and diethyl ether (50 ml). The phases were separated and the aqueous phase was washed with diethyl ether (2×50 ml) and then made alkaline to pH 10-11 with 4 N sodium hydroxide. The alkaline mixture was extracted with ethyl acetate (2×50 ml) and the organic extracts were evaporated in vacuo. The residue was dissolved in 1 N hydrochloric acid and evaporated to dryness. The residue was re-evaporated with acetone to give 260 mg (38%) of the title compound.

reactant | 5-amino-4,5,6,7-tetrahydro-1H-benzimidazole, dihydrochloride | 2.0 mmol, 420 mg | Cl.Cl.NC1CC2=C(NC=N2)CC1
reactant | NaOMe | 5.4 M | C[O-].[Na+]
reactant | MeOH | 4.0 mmol, 0.74 ml | CO | CH4O
reactant | triethylamine | 2 mmol, 0.276 ml | C(C)N(CC)CC | C6H15N
reactant | 5-cyclohexylpentanoic acid chloride | 3.0 mmol, 609 mg | C1(CCCCC1)CCCCC(=O)Cl | C11H19ClO
solvent | DMA | 10 ml | CC(=O)N(C)C | C4H9NO
product | 5-Cyclohexylpentanoic acid (4,5,6,7-tetrahydro-1H-benzimidazol-5-yl)amide, hydrochloride | 260 mg, 38% | Cl.N1C=NC2=C1CCC(C2)NC(CCCCC2CCCCC2)=O | InChI=1S/C18H29N3O.ClH/c22-18(9-5-4-8-14-6-2-1-3-7-14)21-15-10-11-16-17(12-15)20-13-19-16;/h13-15H,1-12H2,(H,19,20)(H,21,22);1H
